US05780475
Step C: 1-Acetyl-3-[4-(4-fluorophenyl)piperazin-1-ylmethyl]-1H-indazole
1-Acetyl-3-bromomethyl-1H-indazole (160 mg, 0.63 mmol) in CH2Cl2 (5 mL) was treated with 1-(4-fluorophenyl)piperazine (228 mg, 1.26 mmol) and Hunig's base (102 mg, 0.79 mmol) and the mixture stirred at 20° C. for 16 h. The mixture was poured into saturated aqueous sodium bicarbonate solution (10 mL) and extracted with CH2Cl2 (3×10 mL). The combined organic extracts were dried (MgSO4), concentrated and the residue purified by flash chromatography (10%→25% EtOAc in hexane) to give the title compound as a white solid. This was recrystallised from ether/hexane to give colourless crystals (184 mg, 83%); mp 119°-120° C. (from ether/hexane); 1H NMR (360 MHz, d6 -DMSO) δ8.31 (d, J=8.3 Hz, 1 H, indazole), 8.08 (d, J=8.3 Hz, 1H, indazole), 7.63 (t, J=8.3 Hz, 1H, indazole), 7.43 (t, J=8.3 Hz, 1H, indazole), 7.03 (m, 2H, Ph), 6.93 (m, 2H, Ph), 3.95 (s, 2H, Ar--CH2N), 3.08 (m, 4H, piperazine), 2.70 (s, 3H, Ac), 2.64 (m, 4H, piperazine); MS (CI+) m/e 353 M+H+); Anal. calcd for C20H21N4OF: C, 68.16; H, 6.01; N, 15.90. Found: C, 68.15;H, 5.85; N, 15.64.

reactant | 1-Acetyl-3-bromomethyl-1H-indazole | 0.63 mmol, 160 mg | C(C)(=O)N1N=C(C2=CC=CC=C12)CBr | C10H9BrN2O
reactant | 1-(4-fluorophenyl)piperazine | 1.26 mmol, 228 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | Hunig's base | 0.79 mmol, 102 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-3-[4-(4-fluorophenyl)piperazin-1-ylmethyl]-1H-indazole | C(C)(=O)N1N=C(C2=CC=CC=C12)CN1CCN(CC1)C1=CC=C(C=C1)F | C20H21FN4O
